US07589232B2
Step b) Formation of 4-[{4-[(4-butylphenyl)ethynyl]benzyl}(3-cyclopentylpropanoyl)amino]-benzoic acid
The titled compound was prepared following the procedure F using ethyl 4-[{4-[(4-butylphenyl)ethynyl]benzyl}(3-cyclopentylpropanoyl)amino]benzoate and LiOH.H2O in the presence of dioxane as a yellow powder (79%). 1H NMR (CDCl3, 300 MHz) δ 8.08 (m, 2H), 7.49-7.35 (m, 4H), 7.23-7.02 (m, 6H), 4.91 (br s, 2H), 2.66-2.53 (m, 2H), 2.18-2.05 (m, 2H), 1.70-1.20 (m, 13H), 1.30-0.82 (m, 5H). M− (ESI): 506.4; M+ (ESI): 508.4. HPLC, Rt: 5.67 min (Purity: 98.5%).

reactant | ethyl 4-[{4-[(4-butylphenyl)ethynyl]benzyl}(3-cyclopentylpropanoyl)amino]benzoate | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C2=CC=C(C(=O)OCC)C=C2)C(CCC2CCCC2)=O)C=C1 | C36H41NO3
reactant | LiOH.H2O | O[Li].O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-[{4-[(4-butylphenyl)ethynyl]benzyl}(3-cyclopentylpropanoyl)amino]-benzoic acid | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C2=CC=C(C(=O)O)C=C2)C(CCC2CCCC2)=O)C=C1 | C34H37NO3
